US05106839
A solution of 6.2 g of 2-(2-chloroethoxy)-1-[2-(chloromethyl)phenoxy]benzene in 310 ml ethanol was added at room temperature in 45 min to a solution of 80 ml of methylamine in 1.2 1 of abs. ethanol. The mixture was stirred overnight, concentrated and dissolved in 100 ml of dimethyl sulphoxide. 18.6 ml of triethylamine were added and the reaction mixture was heated to 90°-100° C. and stirred overnight. After cooling the mixture was poured into 4.5 1 of ice water and extracted with 3×600 ml of dichloromethane. The extract was washed with water, dried over sodium sulphate and concentrated in vacuo. The crude product obtained was purified by silica chromatography with dichloromethane-acetone (9:1), after which the free base was converted into the hydrochloric salt, to obtain 2.12 g (35%) of 6,7,8,9-tetrahydro-8-methyl-dibenzo[b,i][1,4,7]dioxazecine hydrochloride. Mp 223° C.

reactant | 2-(2-chloroethoxy)-1-[2-(chloromethyl)phenoxy]benzene | 6.2 g | ClCCOC1=C(C=CC=C1)OC1=C(C=CC=C1)CCl | C15H14Cl2O2
reactant | methylamine | 80 ml | CN | CH5N
solvent | ethanol | 310 ml | C(C)O | C2H6O
product | 6,7,8,9-tetrahydro-8-methyl-dibenzo[b,i][1,4,7]dioxazecine hydrochloride | 2.12 g, 35% | Cl.CN1CCOC2=C(OC3=C(C1)C=CC=C3)C=CC=C2 | InChI=1S/C16H17NO2.ClH/c1-17-10-11-18-15-8-4-5-9-16(15)19-14-7-3-2-6-13(14)12-17;/h2-9H,10-12H2,1H3;1H
